US04279918
1-methyl-2-(4-nitrobenzylidene)pyrrolidine
Add a solution of 2.35 g of potassium tert. butylate in 15 ml of tert. butanol and 10 ml of dimethylformamide dropwise at 130° to a mixture of 5.0 g of 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate and 2.2 g of 4-nitrotoluene in 15 ml of dimethylformamide. Stir the thus-prepared reaction mixture at this temperature for 2 hours. Allow the mixture to cool, add water to it and then extract it several times with chloroform. Combine and then concentrate the chloroform extracts. Distil off a slight excess of 4-nitrotoluene under a high vacuum and recrystallize the produced residue from 10 ml of ethanol to obtain 0.8 g of title compound.

reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate | 5.0 g | COS(=O)(=O)[O-].CN(C1=[N+](CCC1)C)C
reactant | 4-nitrotoluene | 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | water | O | H2O
solvent | tert. butanol | 15 ml | C(C)(C)(C)O | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-(4-nitrobenzylidene)pyrrolidine | 0.8 g | CN1C(CCC1)=CC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O2
